US04178449
A sample of 7-(m-cyanophenyl)pyrazolo[1,5-a]pyrimidine is heated with acetic acid-hydrochloric acid to give 7-(m-carboxyphenyl)pyrazolo[1,5-a]pyrimidine. The preceding compound is heated with sulfur tetrafluoride for 20 hours at 150° C. to give the product of the example, m.p. 104°-106° C.

reactant | 7-(m-cyanophenyl)pyrazolo[1,5-a]pyrimidine | C(#N)C=1C=C(C=CC1)C1=CC=NC=2N1N=CC2 | C13H8N4
reactant | acetic acid hydrochloric acid | C(C)(=O)O.Cl
product | 7-(m-carboxyphenyl)pyrazolo[1,5-a]pyrimidine | C(=O)(O)C=1C=C(C=CC1)C1=CC=NC=2N1N=CC2 | C13H9N3O2
